US06265424B1
3-(2-Chloro-6-fluorophenyl)-1-methyl-5-(4-bromo-3-methyl-2-thienyl)-1H-1,2,4-triazole
Into 250-mL three-necked round bottom flask equipped with a mechanical stirrer and condenser under an atmosphere of nitrogen was added 19.26 g of 3-(2-chloro-6-fluorophenyl)-1-methyl-5-(4,5-dibromo-3-methyl-2-thienyl)-1H-1,2,4-triazole, 72 mL of acetic acid, 16 mL of water, and 3.25 g of zinc dust. The temperature of the reaction mixture was heated to 100° C. and was maintained at that temperature. After three hours the mixture was allowed to cool to room temperature and was poured into ether (500 mL) and washed with water (2×150 mL), saturated sodium bicarbonate (3×150 mL), brine, dried (Na2SO4) and the solvent removed in vacuo to give 15.4 g (96.4% yield) of the title compound as a white solid: mp 120-121° C; 1H NMR (CDCl3) δ 7.5 (s, b, 1H), 7.3-7.4 (m, 2H), 7.1 (m, 1H), 4.0 (s, 3H), 2.35 (s, 3H).

reactant | 3-(2-chloro-6-fluorophenyl)-1-methyl-5-(4,5-dibromo-3-methyl-2-thienyl)-1H-1,2,4-triazole | 19.26 g | ClC1=C(C(=CC=C1)F)C1=NN(C(=N1)C=1SC(=C(C1C)Br)Br)C | C14H9Br2ClFN3S
reactant | acetic acid | 72 mL | C(C)(=O)O | C2H4O2
reactant | water | 16 mL | O | H2O
catalyst | zinc | 3.25 g | [Zn] | Zn
solvent | ether | 500 mL | CCOCC | C4H10O
product | 3-(2-Chloro-6-fluorophenyl)-1-methyl-5-(4-bromo-3-methyl-2-thienyl)-1H-1,2,4-triazole | 15.4 g, 96.4% yield | ClC1=C(C(=CC=C1)F)C1=NN(C(=N1)C=1SC=C(C1C)Br)C | C14H10BrClFN3S
